US04188325
By reacting 5-cyanoisatin with phosphorous pentachloride, there is obtained 5-cyanoisatin chloride which, on reaction with 3(2H)-thianaphthenone, yields 5'-cyano-2'-indole-2-thianaphthenone indigo, which also is useful as a dyestuff.

reactant | 5-cyanoisatin | C(#N)C=1C=C2C(C(NC2=CC1)=O)=O | C9H4N2O2
reactant | phosphorous pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 5-cyanoisatin chloride | [Cl-].C(#N)C=1C=C2C(C(NC2=CC1)=O)=O | InChI=1S/C9H4N2O2.ClH/c10-4-5-1-2-7-6(3-5)8(12)9(13)11-7;/h1-3H,(H,11,12,13);1H/p-1
